US04965257
n-Butyllithium (0.79 ml of 1.6M solution, in hexane) was added to a stirred solution of 1-(4-ethynylphenyl)-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane (0.25 g.) in dry tetrahydrofuran (15 ml) at 0°, under nitrogen. The reaction mixture was stirred at 0° for 10 minutes. t-Butyldimethylsilyl chloride (0.23 g.) was added and the mixture was stirred at room temperature for 6 hours. The reaction mixture was evaporated in vacuo. Water was added and the aqueous mixture was extracted with diethyl ether. The ethereal extracts were washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by chromatography on alumina (Alumina Woelm TSC), eluting with 2:3 dichloromethane : hexane saturated with ammonia. 1-[4-(2-t-Butyldimethylsilylethynyl)phenyl]-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane was obtained as pale yellow crystals (0.32 g.)

reactant | n-Butyllithium | 1.6M, 0.79 ml | C(CCC)[Li]
reactant | 1-(4-ethynylphenyl)-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane | 0.25 g | C(#C)C1=CC=C(C=C1)C12OCC(CO1)(CO2)CCC | C16H18O3
reactant | t-Butyldimethylsilyl chloride | 0.23 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[4-(2-t-Butyldimethylsilylethynyl)phenyl]-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane | [Si](C)(C)(C(C)(C)C)C#CC1=CC=C(C=C1)C12OCC(CO1)(CO2)CCC | C22H32O3Si
